US03943201
Ethyl sodium (methylthio)thiocarbonylphosphonate
To a solution of 2.3 parts of diethyl (methylthio)-thiocarbonylphosphonate in 50 parts of dry tetrahydrofuran was added 1.5 parts of sodium iodide. The solution was stirred for 18 hours at room temperature, then warmed on a steam bath for one-half hour. The desired orange ethyl sodium (methylthio)thiocarbonylphosphonate was then filtered, m.p. 288°d.

reactant | diethyl (methylthio)-thiocarbonylphosphonate | CSC(=S)P(OCC)(OCC)=O | C6H13O3PS2
reactant | sodium iodide | [I-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl sodium (methylthio)thiocarbonylphosphonate | CSC(=S)P(O)(O)=O.C(C)[Na] | InChI=1S/C2H5O3PS2.C2H5.Na/c1-8-2(7)6(3,4)5;1-2;/h1H3,(H2,3,4,5);1H2,2H3;
